US04297096
To a solution of magnesium metal (8.6 g) in dry tetrahydrofuran (100 ml) was added dropwise ethyl bromide (39 g) in a nitrogen atmosphere at ambient temperature. After the mixture was stirred for an hour at the same temperature, to the mixture was added dropwise a solution of 3-(2-tetrahydropyranyloxy)-1-propyne (50 g) in dry tetrahydrofuran (75 ml) and cuprous cyanide (20 mg). The reaction mixture was stirred for 30 minutes at ambient temperature. To the mixture was added with stirring a solution of 1-bromo-trans-2-hexene (58 g) in dry tetrahydrofuran (75 ml) under ice-cooling. The reaction mixture was stirred for 30 minutes at ambient temperature and concentrated under reduced pressure to give a residue, which was dissolved in diluted hydrochloric acid and extracted with ether. The extract was washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give a yellowish oily residue, which was distilled under reduced pressure to give colorless oily 1-(2-tetrahydropyranyloxy)-trans-5-nonen-2-yne (58 g).

reactant | magnesium | 8.6 g | [Mg] | Mg
reactant | ethyl bromide | 39 g | C(C)Br | C2H5Br
reactant | 3-(2-tetrahydropyranyloxy)-1-propyne | 50 g | O1C(CCCC1)OCC#C | C8H12O2
reactant | 1-bromo-trans-2-hexene | 58 g | BrC\C=C\CCC | C6H11Br
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | hydrochloric acid | Cl | ClH
product | 1-(2-tetrahydropyranyloxy)-trans-5-nonen-2-yne | 58 g | O1C(CCCC1)OCC#CC\C=C\CCC | C14H22O2
